US07674901B2
26.60 g of 3-acetylpyridine (0.219 mol; 1 eq.) and 44.0 mL of N,N-dimethylformamide dimethyl acetal (39.47 g; 0.331 mol; 1.508 eq.) were placed in a reactor flask and the mixture was refluxed for 1.5 h. Methanol, produced in the reaction was removed by distillation and the mixture was refluxed for further 2 hours. The rest of methanol and excess of the acetal were removed by distillation under slightly reduced pressure. The hot residue was treated with 100 mL DMF, and, after cooling down, with 56.3 g of 1-(2-methyl-5-nitrophenyl)guanidine nitrate (0.219 mol; 1 eq.). A solution of 8.8 g of sodium hydroxide in 17 mL of water was then added dropwise and the mixture was refluxed for 8 hours in an oil bath. Water (200 mL) was added with care to the hot solution, and the contents of the flask were poured to 700 mL of warm water. The whole mixture was cooled with stirring to room temperature. The precipitated solid was isolated by filtration and dried in the air to afford 49.41 g of crude 2-(2-methyl-5-nitroanilino)-4-(3-pyridinyl)pyrimidine (yield 73.2% calculated on 3-acetylpyridine), m.p. 186-188° C.; 1H NMR (DMSO-d6, 200 MHz): 2.43 (3H, s, CH3), 7.54 (3H, m, 3-H phenyl +5-H pyrimidine +5-H pyridyl), 7.90 (1H, dd, J=8.2, 2.2 Hz, 4-H phenyl), 8.48 (1H, dt, J1=7.9 Hz, 4-H pyridyl), 8.62 (1H, d, J=5.4 Hz, 6-H pyrimidine), 8.71 (1H, dd, 6-H pyridyl), 8.79 (1H, d, J=2.2 Hz, 6-H phenyl), 9.27 (1H, s, NH), 9.32 (1H, d, J=1.6 Hz, 2-H pyridyl).

reactant | 3-acetylpyridine | 0.219 mol, 26.60 g, 1 eq. | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | N,N-dimethylformamide dimethyl acetal | 0.331 mol, 44.0 mL, 39.47 g, 1.508 eq. | COC(N(C)C)OC | C5H13NO2
reactant | 1-(2-methyl-5-nitrophenyl)guanidine nitrate | 0.219 mol, 56.3 g, 1 eq. | [N+](=O)(O)[O-].CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N
reactant | sodium hydroxide | 8.8 g | [OH-].[Na+]
solvent | water | 17 mL | O | H2O
solvent | water | 700 mL | O | H2O
solvent | Water | 200 mL | O | H2O
solvent | Methanol | CO | CH4O
product | 2-(2-methyl-5-nitroanilino)-4-(3-pyridinyl)pyrimidine | 49.41 g, yield 73.2% | CC1=C(NC2=NC=CC(=N2)C=2C=NC=CC2)C=C(C=C1)[N+](=O)[O-] | C16H13N5O2
